US07893090B2
(RS)-1-[2-(4-Fluoro-benzofuran-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
The title compound (60 mg) was prepared from (RS)-2-(4-fluoro-benzofuran-2-ylmethyl)-piperidine, D76 (157 mg) and 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid (160 mg) according to a procedure similar to that described for Example 4.

reactant | (RS)-2-(4-fluoro-benzofuran-2-ylmethyl)-piperidine | FC1=CC=CC2=C1C=C(O2)CC2NCCCC2 | C14H16FNO
reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid | 160 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
product | (RS)-1-[2-(4-Fluoro-benzofuran-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | 60 mg | FC1=CC=CC2=C1C=C(O2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C25H22F2N2O2S
